US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrrole-3-sulfonamide hydrochloride
Following a procedure analogous to the procedure described in Example 282 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrrole-3-sulfonamide (260 mg, 0.487 mmol) and ammonium hydroxide (10 ml), the title compound was obtained as a white solid (132 mg, 49.2%). 1HNMR (MEOD-d4): δ ppm 7.92-7.93 (d, J=6.4 Hz, 1H), 7.50-7.54 (t, J=7.6 Hz, 1H), 7.16-7.23 (m, 2H), 7.12 (s, 1H), 6.31-6.64 (t, J=2.4 Hz, 1H), 6.30-6.32 (d, J=6.0 Hz, 1H), 6.23 (s, 1H), 3.94-3.97 (dd, J1=11.4 Hz, J2=2.4 Hz, 2H), 3.57 (s, 3H), 3.47-3.53 (t, J1=11.4 Hz, 2H), 3.26-3.28 (m, 1H), 1.98-2.01 (dd, J1=11.8 Hz, J2=1.2 Hz, 2H), 1.76-1.86 (dd, J1=12.1 Hz, J2=4.4 Hz, 2H); MS: 515.2 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrrole-3-sulfonamide | 0.487 mmol, 260 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=CN(C=C1)C)F | C23H21ClFN5O3S2
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrrole-3-sulfonamide hydrochloride | Cl.NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=CN(C=C1)C)F | InChI=1S/C23H23FN6O3S2.ClH/c1-30-10-6-15(13-30)35(31,32)29-17-4-2-3-16(19(17)24)20-21(18-5-9-26-23(25)27-18)34-22(28-20)14-7-11-33-12-8-14;/h2-6,9-10,13-14,29H,7-8,11-12H2,1H3,(H2,25,26,27);1H
